US07504508B2
(4-fluoro-3-ethylbenzoyl chloride was prepared in 5 steps from 3-bromo-4-fluorobenzoic acid. 3-bromo-4-fluorobenzoic acid was converted to methyl 3-bromo-4-fluorobenzoate by treatment with trimethylsilyl diazomethane (1.5 equivalents) in benzene/methanol (4/1) at room temperature. Subsequent reaction with tributyl(vinyl) tin (1.2 equivalents) in DMF in the presence of catalytic dichlororbis(triphenylphosphine)palladium(II) (0.1 equivalents) at 80° C. under an argon atmosphere, followed by aqueous work up and standard chromatography (10% ethyl acetate/hexanes), yielded methyl 4-fluoro-3-vinylbenzoate. Hydrogenation of the vinyl group by treatment of this material with palladium on carbon (10% palladium on carbon, 10% by mass) in methanol under an hydrogen atmosphere then afforded methyl 3-ethyl-4-fluorobenzoate. This material was dissolved in methanol/tetrahydrofuran/water (2/1/1) then lithium hydroxide (5.0 equivalents) was added and reaction mixture stirred at room temperature for 2 hours. The mixture was concentrated, the residue acidified with a 1N HCl aqueous solution and extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered and concentrated to give 4-fluoro-3-ethylbenzoic acid. This material was directly converted to 4-fluoro-3-ethylbenzoyl chloride by treatment with thionyl chloride (2.2 equivalents) in dichloromethane at room temperature for 2 hours followed by removal of the volatiles in vaccuo). The rest of the procedures were followed as indicated in general procedure B to afford N-(4-chlorophenyl)-N-[(2S,4R)-1-(3-ethyl-4-fluorobenzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl]acetamide.

reactant | methyl 3-ethyl-4-fluorobenzoate | C(C)C=1C=C(C(=O)OC)C=CC1F | C10H11FO2
reactant | lithium hydroxide | 5.0 equivalents | [OH-].[Li+]
catalyst | palladium on carbon | [Pd] | Pd
solvent | methanol | CO | CH4O
solvent | methanol tetrahydrofuran water | CO.O1CCCC1.O
product | 4-fluoro-3-ethylbenzoic acid | FC1=C(C=C(C(=O)O)C=C1)CC | C9H9FO2
